US07504412B2
Repeating the operations of Production Example 14 using 4-(methoxycarbonyl)phenylboronic acid and 2-bromo-5-methoxypyridine, methyl 4-(5-methoxy-2-pyridyl)benzoate was obtained. Hydrolyzing the same with 5N aqueous sodium hydroxide solution, the title compound was obtained as white solid.

reactant | 4-(methoxycarbonyl)phenylboronic acid | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | 2-bromo-5-methoxypyridine | BrC1=NC=C(C=C1)OC | C6H6BrNO
product | methyl 4-(5-methoxy-2-pyridyl)benzoate | COC=1C=CC(=NC1)C1=CC=C(C(=O)OC)C=C1 | C14H13NO3
